US04997840
A solution of benzoic acid (6.7 g) and triethylamine (9.9 ml) in dichloromethane (80 ml) was added to the solution of 2'-(2-chloroacetyl)-4'-fluoro-N-methylformanilide at 0°. The mixture was stirred at ambient temperature for 24 hours and then heated under reflux for 2 hours. The mixture was washed with water (2×50 ml) and dried over magnesium sulphate. The solvent was removed by distillation and the residue added to potassium carbonate (1.76 g) and dry dimethylformamide (30 ml). The mixture was heated under nitrogen at 60° for 6 hours. Further potassium carbonate (1.0 g) was added and the heating continued for 6 hours. The solvent was removed under reduced pressure at 60° C., the residue triturated with water (30 ml), and the solid collected by filtration to give the novel compound 6-fluoro-1-methyl-4-oxo-1,4-dihydroquinol-3-yl benzoate, m.p. ]88°-190°.

reactant | benzoic acid | 6.7 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | 9.9 ml | C(C)N(CC)CC | C6H15N
reactant | 2'-(2-chloroacetyl)-4'-fluoro-N-methylformanilide | ClCC(=O)C1=C(N(C=O)C)C=CC(=C1)F | C10H9ClFNO2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 6-fluoro-1-methyl-4-oxo-1,4-dihydroquinol-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1=CN(C2=CC=C(C=C2C1=O)F)C | C17H12FNO3
